US04613609
1-[4-[4-(Acetylamino)phenyl]butyl]-3-heptylimidazolium 4-methylbenzenesulfonate
Heat a mixture of 6.23 g (0.017 mole) 4-methylbenzenesulfonic acid 4-(4-acetylaminophenyl)butyl ester and 2.9 g (0.017 mole) 1-heptyl-1H-imidazole to 80° C., for 5 hours, following the reaction by thin-layer chromatography on silica gel (acetonitrile: ammonium hydroxide, 90:10). At the completion of the reaction, triturate the cooled resultant material with petroleum ether. Recrystallize the material from 25 ml hot methyl ethyl ketone with hot filtration, chill and seed to obtain the title compound.

reactant | 4-methylbenzenesulfonic acid 4-(4-acetylaminophenyl)butyl ester | 0.017 mole, 6.23 g | C(C)(=O)NC1=CC=C(C=C1)CCCCOS(=O)(=O)C1=CC=C(C=C1)C | C19H23NO4S
reactant | 1-heptyl-1H-imidazole | 0.017 mole, 2.9 g | C(CCCCCC)N1C=NC=C1 | C10H18N2
product | 1-[4-[4-(Acetylamino)phenyl]butyl]-3-heptylimidazolium 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)[O-].C(C)(=O)NC1=CC=C(C=C1)CCCC[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C22H33N3O.C7H8O3S/c1-3-4-5-6-8-15-24-17-18-25(19-24)16-9-7-10-21-11-13-22(14-12-21)23-20(2)26;1-6-2-4-7(5-3-6)11(8,9)10/h11-14,17-19H,3-10,15-16H2,1-2H3;2-5H,1H3,(H,8,9,10)
